** sch_path: /foss/designs/engn1600-team1/CAD5/2x1_mux.sch
.subckt 2x1_mux A SEL SELb Y VDD VSS B
*.PININFO A:I B:I SEL:I Y:O VDD:B VSS:B SELb:I
M1 Y SEL B VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M2 Y SELb B VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M3 Y SELb A VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M4 Y SEL A VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
.ends
